US07034039B2
3-(Aminomethyl)-2-isobutyl-4-phenyl-6-(2H-tetrazol-5-yl)-1(2H)-isoquinolinone hydrochloride
Tert-butyl[2-isobutyl-1-oxo-4-phenyl-6-(2H-tetrazol-5-yl)-1,2-dihydro-3-isoquinolinyl]methylcarbamate (0.15 g, 0.32 mmol) was dissolved in tetrahydrofuran (4 mL) and a solution (4 mL) of 4N hydrogen chloride in ethyl acetate was added thereto. This mixture was stirred at room temperature for 17 h, and the precipitated crystals were collected by filtration to give the title compound (0.13 g, 97%) as colorless crystals.

reactant | Tert-butyl[2-isobutyl-1-oxo-4-phenyl-6-(2H-tetrazol-5-yl)-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 0.32 mmol, 0.15 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)C=1N=NNN1)=O)CC(C)C)=O | C26H30N6O3
reactant | hydrogen chloride | 4N, 4 mL | Cl | ClH
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(Aminomethyl)-2-isobutyl-4-phenyl-6-(2H-tetrazol-5-yl)-1(2H)-isoquinolinone hydrochloride | 0.13 g, 97% | Cl.NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)C=1N=NNN1)=O)CC(C)C | InChI=1S/C21H22N6O.ClH/c1-13(2)12-27-18(11-22)19(14-6-4-3-5-7-14)17-10-15(20-23-25-26-24-20)8-9-16(17)21(27)28;/h3-10,13H,11-12,22H2,1-2H3,(H,23,24,25,26);1H
